US06943183B2
4-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}-N-[(2S)-2-methylbutyl]benzamide (Compound 247)
Using the method in Example 172, 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic acid (53 mg, 0.10 mmol, 0.20M in DMF) and (S)-2-methylbutylamine (26 mg, 0.30 mmol, 0.6M in DMF) were combined to give 60 mg of the desired compound: Low resolution mass spectrum (LC-MS, APCI) m/z 600 [M+H]+.

reactant | 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic acid | 0.10 mmol, 0.20M, 53 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C29H26N2O6S
reactant | (S)-2-methylbutylamine | 0.30 mmol, 0.6M, 26 mg | C[C@H](CN)CC | C5H13N
product | 4-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}-N-[(2S)-2-methylbutyl]benzamide | 60 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=CC=C(C(=O)NC[C@H](CC)C)C=C1 | C34H37N3O5S
